US07981903B2
A solution of 2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}aniline hydrochloride (3 g, 7.41 mmol) and 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (3 g, 6.52 mmol) in trifluroroethanol (200 mL) and HCl in dioxane (14.16 ml, 56.6 mmol) and KI (300 mg, 1.807 mmol) was stirred at 90° C. in a 300 mL pressure vessel behind a blast shield for 15 hours. After cooling to rt, the solution was neutralized with aqueous NaHCO3 (400 mL), the black suspension was added to CH2Cl2 (500 mL), and the layers separated. Addition of brine (200 mL) helped to separate the organic and aqueous layers. The organic layers were concentrated under reduced pressure and then suspended in CH2Cl2 (20 mL) and Et2O (150 mL). The solid was filtered to obtain 8-fluoro-5-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one as brown powder (4.5 g, 5.81 mmol, 89% yield). This material was used without further purification. ESIMS (M+H)+=775.32 (100%).

reactant | 2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}aniline hydrochloride | 7.41 mmol, 3 g | Cl.COC1=C(N)C=CC(=C1)N1CCC(CC1)N1CCN(CC1)S(=O)(=O)C
reactant | 2-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 6.52 mmol, 3 g | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F | C20H15ClFN5O3S
reactant | HCl | Cl | ClH
reactant | dioxane | 56.6 mmol, 14.16 ml | O1CCOCC1 | C4H8O2
reactant | NaHCO3 | 400 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 8-fluoro-5-[(2-(methyloxy)-4-{4-[4-(methylsulfonyl)-1-piperazinyl]-1-piperidinyl}phenyl)amino]-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 5.81 mmol, 4.5 g, 89% yield | FC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3NC3=C(C=C(C=C3)N3CCC(CC3)N3CCN(CC3)S(=O)(=O)C)OC)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C37H39FN8O6S2
